US07994317B2
b) Preparation of trans-4-(4-(methylamino)-6-(4-methylpiperazin-1-yl)-1,3,5-triazin-2-ylamino) cyclohexanecarboxylic acid
trans-4-Aminocyclohexylcarboxylic acid (472 mg, 3.30 mmol, 8 equivalents) and triethylamine (0.46 ml, 3.30 mmol, 8 equivalents) was added to the solution of 4-Chloro-N-methyl-6-(4-methylpiperazin-1-yl)-1,3,5-triazin-2-amine (100 mg, 0.412 mmol, 1 equivalent) in CH3CN (8 ml). The reaction mixture was heated at 80° C. for 16 hours. The solvent was evaporated and the crude product was purified with RP-HPLC (Luna 5μ, C8(2), 100×21 mm, 2-45% CH3CN/H2O, 0.1% TFA, 25 min) to give the product (18.4 mg, 10%). MS (ES+): m/e 350.13 [M+H]+.

reactant | trans-4-Aminocyclohexylcarboxylic acid | 3.30 mmol, 472 mg, 8 equivalents | N[C@@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | triethylamine | 3.30 mmol, 0.46 ml, 8 equivalents | C(C)N(CC)CC | C6H15N
reactant | 4-Chloro-N-methyl-6-(4-methylpiperazin-1-yl)-1,3,5-triazin-2-amine | 0.412 mmol, 100 mg, 1 equivalent | ClC1=NC(=NC(=N1)N1CCN(CC1)C)NC | C9H15ClN6
solvent | CH3CN | 8 ml | CC#N | C2H3N
product | trans-4-(4-(methylamino)-6-(4-methylpiperazin-1-yl)-1,3,5-triazin-2-ylamino) cyclohexanecarboxylic acid | 18.4 mg, 10% | CNC1=NC(=NC(=N1)N1CCN(CC1)C)N[C@@H]1CC[C@H](CC1)C(=O)O | C16H27N7O2
